US09315501B2
Step 4. 4-(5-amino-2-(2,4-difluorophenoxy)-4-(methylamino)phenyl)-6-methyl-1-tosyl-1H-pyrrolo[2,3-c]pyridin-7(6H)-one
A solution of 4-[2-(2,4-difluorophenoxy)-4-(methylamino)-5-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.150 g, 0.258 mmol) in ethyl acetate (1.0 mL) was treated with methanol (1.0 mL) and saturated aqueous ammonium chloride solution (0.225 mL, 3.36 mmol) and cooled to 0° C. The reaction mixture was treated with zinc (0.135 g, 2.07 mmol) in two portions over 5 minutes. The reaction mixture was heated at 55° C. for 10 min, diluted with dichloromethane, filtered over Celite, and washed with dichloromethane. The filtrate was concentrated to residue. The residue was dissolved in dichloromethane (30 mL), washed with saturated sodium bicarbonate solution (20 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product (0.141 g, 99%), which was used without further purification. LCMS calculated for C28H25F2N4O4S (M+H)+: m/z=551.2. found: 550.9.

reactant | 4-[2-(2,4-difluorophenoxy)-4-(methylamino)-5-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.258 mmol, 0.150 g | FC1=C(OC2=C(C=C(C(=C2)NC)[N+](=O)[O-])C=2C3=C(C(N(C2)C)=O)N(C=C3)S(=O)(=O)C3=CC=C(C=C3)C)C=CC(=C1)F | C28H22F2N4O6S
reactant | methanol | 1.0 mL | CO | CH4O
reactant | ammonium chloride | 3.36 mmol, 0.225 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc | 2.07 mmol, 0.135 g | [Zn] | Zn
product | 4-(5-amino-2-(2,4-difluorophenoxy)-4-(methylamino)phenyl)-6-methyl-1-tosyl-1H-pyrrolo[2,3-c]pyridin-7(6H)-one | 0.141 g, 99% | NC=1C(=CC(=C(C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)OC2=C(C=C(C=C2)F)F)NC | C28H24F2N4O4S
